US07977344B2
2-[(2-Cyclopropylethyl)oxy]-8-methoxy-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
A solution of 8-bromo-2-[(2-cyclopropylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (1.867 g) in dry MeOH (14 mL) was treated with sodium methoxide solution (3.1 mL, 25 wt. MeOH) and was heated to reflux for 5 h. The reaction was concentrated under reduced pressure before being partitioned between EtOAc (100 mL) and ammonium chloride (100 mL). The organics were separated and aqueous was re-extracted with EtOAc (100 mL). The combined organics were washed with brine (100 mL), separated and dried using a hydrophobic frit. The organics were evaporated under reduced pressure to give the title compound as a brown foam (845 mg).

reactant | 8-bromo-2-[(2-cyclopropylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 1.867 g | BrC=1N(C2=NC(=NC(=C2N1)N)OCCC1CC1)C1OCCCC1 | C15H20BrN5O2
reactant | sodium methoxide | 3.1 mL | C[O-].[Na+]
solvent | MeOH | 14 mL | CO | CH4O
product | 2-[(2-Cyclopropylethyl)oxy]-8-methoxy-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 845 mg | C1(CC1)CCOC1=NC(=C2N=C(N(C2=N1)C1OCCCC1)OC)N | C16H23N5O3
